US05180824
Synthesis of 9-β-D-Arabinofuranosyl-2-fluoroadenine
A solution of 2,3,5-tri-O-benzyl-1-α-D-arabinofuranosylchloride (freshly prepared from 1.9 g of 2,3,5-tri-O-benzyl-1-O-p-nitrobenzoyl-D-arabinofuranose) and 6-azido-2-fluoropurine (0.50 g) in anhydrous acetonitrile (30 mL) was stirred for 1 hour at room temperature and then 3 Å molecular sieve (1.26 g, pellets) was added. The mixture was stirred under an inert atmosphere for 3 days and then filtered. The filtrate was concentrated under reduced pressure and the residue was dissolved in 2-propanol and methanol, and then sodium borohydride (0.13 g) was added. After stirring overnight at room temperature the resulting precipitate was collected by filtration. The precipitate was washed with 2-propanol followed by boiling water and then dried to obtain 0.14 g of the title compound. The organic filtrates were concentrated under reduced pressure and the residue was partitioned between dichloromethane and water. The dichloromethane solution was dried over MgSO4 and then filtered and placed on a silica gel column. Elution with 1% methanol in dichloromethane provided an additional 0.10 g of the title compound. Both samples were identical by IR and TLC to an authentic sample of the title compound.

reactant | 2,3,5-tri-O-benzyl-1-O-p-nitrobenzoyl-D-arabinofuranose | 1.9 g | C(C1=CC=CC=C1)O[C@@H]1C(OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C33H31NO8
reactant | 6-azido-2-fluoropurine | 0.50 g | N(=[N+]=[N-])C1=C2NC=NC2=NC(=N1)F | C5H2FN7
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 9-β-D-Arabinofuranosyl-2-fluoroadenine | 0.14 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C2=NC(=NC(=C2N=C1)N)F | C10H12FN5O4
